US04209621
2-Mercapto-4-(m-trifluoromethylphenyl)pyrimidine
A mixture of 12.2 g. of 3-dimethylamino-3'-trifluoromethylacrylophenone and 15.2 g. of thiourea is heated at 180°-190° C. for 2 hours. The cooled crude reaction mixture is dissolved in 200 ml. of 1 N sodium hydroxide solution and is treated with activated charcoal and filtered. The filtered solution is acidified with 1 N hydrochloric acid and the desired compound is collected by filtration, m.p. 200°-205° C.

reactant | 3-dimethylamino-3'-trifluoromethylacrylophenone | CN(C=CC(=O)C1=CC(=CC=C1)C(F)(F)F)C | C12H12F3NO
reactant | thiourea | NC(=S)N | CH4N2S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | charcoal | C | CH4
product | 2-Mercapto-4-(m-trifluoromethylphenyl)pyrimidine | SC1=NC=CC(=N1)C1=CC(=CC=C1)C(F)(F)F | C11H7F3N2S
